US08497368B2
1-(6-Chloro-imidazo[1,2-b]pyridazin-3-yl)-1-(1-methyl-1H-indazol-5-yl)-ethanol (71.2)
To a solution of (6-chloroimidazo[1,2-b]pyridazin-3-yl)(1-methyl-1H-indazol-5-yl)methanone (410 mg, 1.32 mmol) in 10 mL THF was added methylmagnesium iodide (0.88 mL, 2.63 mmol) at 0° C. After stirring at 0° C. for 3 hour, the reaction was quenched with saturated NH4Cl and concentrated under resdue pressure. The residue was extracted with DCM three times. The organic layers were combined, dried over Na2SO4 and concentrated to give the title compound as a white solid (430.0 mg, 95%). 1H-NMR (400 MHz, DMSO-d6) δ ppm 8.17 (d, 1H), 7.99 (s, 1H), 7.50 (m, 1H), 7.40 (d, 1H), 7.25 (d, 1H), 5.98 (s, 1H), 3.99 (s, 3H), 2.05 (s, 3H). LCMS (method A): [MH]+=328, tR=4.55 min.

reactant | (6-chloroimidazo[1,2-b]pyridazin-3-yl)(1-methyl-1H-indazol-5-yl)methanone | 1.32 mmol, 410 mg | ClC=1C=CC=2N(N1)C(=CN2)C(=O)C=2C=C1C=NN(C1=CC2)C | C15H10ClN5O
reactant | methylmagnesium iodide | 2.63 mmol, 0.88 mL | C[Mg]I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(6-Chloro-imidazo[1,2-b]pyridazin-3-yl)-1-(1-methyl-1H-indazol-5-yl)-ethanol | 430.0 mg, 95% | ClC=1C=CC=2N(N1)C(=CN2)C(C)(O)C=2C=C1C=NN(C1=CC2)C | C16H14ClN5O
